US04537897
A solution of 9 g of 96.5% potassium tert.-butylate in 90 ml of dimethylformamide was added at -60° C. to a solution of 12.58 g of sodium (1R,cis) 2,2-dimethyl-3-formyl-cyclopropane-carboxylate, 350 ml of dimethylformamide and 26.27 g of methoxymethyl triphenylphosphonium chloride and the temperature was allowed to rise to 20° C. with stirring over 90 minutes. The mixture was poured into aqueous monosodium phosphate solution and was extracted with diisopropyl oxide. The combined organic phases were extracted with 100 ml of aqueous N sodium hydroxide and the aqueous extract was stirred at 5° C. with a mixture of diisopropyl oxide and monosodium phosphate. The mixture was diluted with water and the decanted aqueous phase was extracted with diisopropyl oxide. The organic phase was evaporated to dryness under reduced pressure to obtain 5.22 g of (1R,cis)(E+Z) 2,2-dimethyl-3-(2-methoxy-1-ethenyl)-cyclopropane-carboxylic acid.

reactant | sodium (1R,cis) 2,2-dimethyl-3-formyl-cyclopropane-carboxylate | 12.58 g | CC1([C@@H]([C@@H]1C=O)C(=O)[O-])C.[Na+]
reactant | methoxymethyl triphenylphosphonium chloride | 26.27 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-3-(2-methoxy-1-ethenyl)-cyclopropane-carboxylic acid | CC1(C(C1C=COC)C(=O)O)C | C9H14O3
